US07825128B2
b) Preparation of (RS)—S-(4-aminophenyl)-N-(methylcarbamoyl)-S-methylsulfoximide
302 mg (1.17 mmol) (RS)—S-(4-nitrophenyl)-N-(methylcarbamoyl)-S-methylsulfoximide in 20 ml methanol is hydrogenated over 60 mg palladium (10% on carbon, 50% water wet) for 4 hours at 26° C. and 30 bar. The catalyst is filtered and the solvent evaporated to give 271 mg (corresponding to 100% of theor.) of the product.

reactant | (RS)—S-(4-nitrophenyl)-N-(methylcarbamoyl)-S-methylsulfoximide | 1.17 mmol, 302 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=NC(NC)=O)C | C9H11N3O4S
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium | 60 mg | [Pd] | Pd
product | (RS)—S-(4-aminophenyl)-N-(methylcarbamoyl)-S-methylsulfoximide | NC1=CC=C(C=C1)S(=O)(=NC(NC)=O)C | C9H13N3O2S
